US07608563B2
3.42 g (12.9 mmol) of 6-chloro-3-(2,6-dimethylphenoxy)-4-methoxypyridazine, dichloromethane (110 mL) and 3.34 g (15.4 mmol) of 80% m-chloroperbenzoic acid were mixed, and the mixture was stirred at at room temperature for 16 days. The reaction mixture was poured into ice-cold saturated aqueous sodium sulfite solution, and extracted with dichloromethane. The organic layers were combined, washed successively with a saturated aqueous sodium hydrogen carbonate solution, water and brine, and dried over anhydrous sodium sulfate. The solvent was removed, and the residue was purified by silica gel column chromatography to obtain 2.06 g (7.33 mmol, Yield: 56.8%) of 6-chloro-3-(2,6-dimethylphenoxy)-4-methoxypyridazine 1-oxide.

reactant | 6-chloro-3-(2,6-dimethylphenoxy)-4-methoxypyridazine | 12.9 mmol, 3.42 g | ClC1=CC(=C(N=N1)OC1=C(C=CC=C1C)C)OC | C13H13ClN2O2
reactant | m-chloroperbenzoic acid | 15.4 mmol, 3.34 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 110 mL | ClCCl | CH2Cl2
product | 6-chloro-3-(2,6-dimethylphenoxy)-4-methoxypyridazine 1-oxide | 7.33 mmol, 2.06 g, Yield: 56.8% | ClC1=CC(=C(N=[N+]1[O-])OC1=C(C=CC=C1C)C)OC | C13H13ClN2O3
